US05420126
In 2 ml of toluene were dissolved 0.5 g of 6-cyano3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine, 1.2 ml of 2,3-butanedione and a catalytic amount of p-toluenesulfonic acid and the mixture was stirred at 100° C. for 2 days. The solvent was then distilled off under reduced pressure and the residue was re-dissolved in toluene, washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was purified by silica gel column chromatography to give 0.15 g of 6-cyano-3,4-dihydro-2,2-dimethyl-4-(2,5-dimethyl-3-furyl)-2H-1,4-benzoxazine.

reactant | 6-cyano3,4-dihydro-2,2-dimethyl-2H-1,4-benzoxazine | 0.5 g | C(#N)C=1C=CC2=C(NCC(O2)(C)C)C1 | C11H12N2O
reactant | 2,3-butanedione | 1.2 ml | CC(C(C)=O)=O | C4H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 6-cyano-3,4-dihydro-2,2-dimethyl-4-(2,5-dimethyl-3-furyl)-2H-1,4-benzoxazine | 0.15 g | C(#N)C=1C=CC2=C(N(CC(O2)(C)C)C2=C(OC(=C2)C)C)C1 | C17H18N2O2
